US09340527B2
To a solution of ethyl 1-((6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)methyl)-3-methylpiperidine-4-carboxylate (750 mg, 1.62 mmol, 1.0 eq) in THF/H2O (8/1, 9.0 mL) was added NaOH (130 mg, 3.24 mmol, 2.0 eq). The mixture was heated to 60° C. and stirred for 16 h. After cooling down to room temperature, the reaction mixture was adjusted to pH=7 with aq. HCl. The solvent was removed in vacuo to give the residue, which was purified by silica gel (DCM/MeOH=15:1) to give 1-((6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)methyl)-3-methylpiperidine-4-carboxylic acid as a white solid (620 mg, Y: 88%). ESI-MS (M+H)+: 438.3. HPLC: 100.00%; 1H NMR (400 MHz, CDCl3) δ ppm 10.82 (br, 1H), 7.65-7.54 (m, 3H), 7.41-7.40 (m, 1H), 7.04-7.02 (m, 2H), 4.20-4.14 (m, 1H), 3.85 (s, 2H), 3.15-3.07 (m, 2H), 2.77-2.71 (m, 1H), 2.50-2.46 (m, 1H), 2.18-2.16 (m, 3H), 1.96-1.92 (m, 2H), 1.81-1.78 (m, 2H), 1.36-0.96 (m, 9H), 0.82 (s, 9H).

reactant | ethyl 1-((6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)methyl)-3-methylpiperidine-4-carboxylate | 1.62 mmol, 750 mg, 1.0 eq | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C(CC1)C(=O)OCC)C | C30H43NO3
reactant | NaOH | 3.24 mmol, 130 mg, 2.0 eq | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF H2O | 9.0 mL | C1CCOC1.O
product | 1-((6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)methyl)-3-methylpiperidine-4-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C(CC1)C(=O)O)C | C28H39NO3
